US08604029B2
To a stirred solution of 1-(6-nitro-pyridin-3-yl)-piperazine (3.00 g, 14.4 mmol) in dichloromethane (30 mL) was added triethylamine (2.91 g, 28.8 mmol) followed by the dropwise addition of pivaloyl chloride (1.90 g, 15.9 mmol) at r.t. and the resulting solution was stirred for 15 min. The reaction was quenched with sat. sodium bicarbonate solution and extracted with dichloromethane (×3). The combined organics were dried over anhydrous sodium sulfate, filtered and concentrated. The crude material was washed with petroleum ether to afford 2,2-dimethyl-1-[4-(6-nitro-pyridin-3-yl)-piperazin-1-yl]-propan-1-one (2.50 g, 59%) as pale yellow solid.

reactant | 1-(6-nitro-pyridin-3-yl)-piperazine | 14.4 mmol, 3.00 g | [N+](=O)([O-])C1=CC=C(C=N1)N1CCNCC1 | C9H12N4O2
reactant | triethylamine | 28.8 mmol, 2.91 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 15.9 mmol, 1.90 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-1-[4-(6-nitro-pyridin-3-yl)-piperazin-1-yl]-propan-1-one | 2.50 g, 59% | CC(C(=O)N1CCN(CC1)C=1C=NC(=CC1)[N+](=O)[O-])(C)C | C14H20N4O3
